US07851493B2
100 mg 5-[3-Methyl-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde and 12.8 mg propylamine were suspended in 3 ml methanol. 30.0 μl triethylamine were added upon the reaction mixture became a clear solution. 400 mg molecular sieves four angstrom were added and the reaction mixture stirred at room temperature for two hours. Then 8.2 mg sodium borohydride were added and the reaction mixture stirred at room temperature for thirty minutes. The reaction mixture was filtered through a celite pad. The filtrate was evaporated in vacuo and then evaporated in vacuo. The residue was purified by RP-HPLC to obtain 45.7 mg 3-{2-methyl-4-[4-propylaminomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one as its trifluoroacetate salt.

reactant | 5-[3-Methyl-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazole-4-carbaldehyde | 100 mg | CC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)C=O)C=CC1C1=NOC(N1)=O | C21H14F3N3O4S
reactant | propylamine | 12.8 mg | C(CC)N | C3H9N
reactant | triethylamine | 30.0 μl | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 8.2 mg | [BH4-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 3-{2-methyl-4-[4-propylaminomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 45.7 mg | CC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CNCCC)C1=NOC(N1)=O | C24H23F3N4O3S
